US06342613B1
2. Preparation of 5-propanoylbenzo[1,3]dioxol
To the reaction mixture containing the 44 g of non-reacted benzo[1,3]dioxol were added 29.2 g (0.24 mol) of benzo[1.3]dioxol and 1 ml of 70% perchloric acid. To the resulting mixture, cooled to 0-5° C., was added 38.1 ml (0.3 mol) of propionic anhydride. Using the method described in the previous paragraph, 44 g of non-reacted benzo[1,3]dioxol and 34.5 g of the desired product were isolated.

reactant | benzo[1,3]dioxol | 44 g | O1COC2=C1C=CC=C2 | C7H6O2
reactant | benzo[1.3]dioxol | 0.24 mol, 29.2 g | O1COC2=C1C=CC=C2 | C7H6O2
reactant | perchloric acid | 1 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | propionic anhydride | 0.3 mol, 38.1 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | benzo[1,3]dioxol | 44 g | O1COC2=C1C=CC=C2 | C7H6O2
product | 5-propanoylbenzo[1,3]dioxol | 34.5 g | C(CC)(=O)C1=CC2=C(OCO2)C=C1 | C10H10O3
